### PR TITLE
fv: ledger-layer foundations — collision vocabulary, Merkle position binding, abstract Action statement

### PR DESCRIPTION
**Pull request by daira**
This is the first slice of the ledger-model security layer, which will eventually have a Lean formalization of the high-level Zcash security properties (Balance, Spendability, and Spend Authority) — not in this PR.

The intended approach is to define these properties in the strong adversary model of my Zcon3 talk [*Understanding the Security of Zcash*](https://github.com/daira/zcash-security) ([video](https://www.youtube.com/watch?v=f6UToqiIdeY)), composing the security arguments of [ZIP 2005](https://zips.z.cash/zip-2005). Currently we have only the core of the ZIP 2005 arguments.

This PR lands the shared vocabulary, the Merkle lemma, the abstract Action-statement interface with its pinning lemmas; and documents two development-wide conventions on modelling of security breaks and on trust discipline. The security-game theorems will build on these in follow-up PRs.

## Contents

* **Shared random-oracle collision vocabulary** (`Zcash/Security/RandomOracle.lean`): `Collision` and `CollisionUpToSign` (the ±-collision shape produced by coordinate-extractor arguments), as data-bearing structures. Shared with the in-flight key-binding workstream; this commit is the common base of both branches.
* **Merkle position binding** (`Zcash/Security/Ledger/Merkle.lean`): fixed-depth Merkle trees over path-indexed leaves (`Fin d → Bool`, so no position arithmetic). `collisionOfWrongLeaf` computes a hash collision from a validating path for a wrong leaf; `pathRoot_authPath` is the completeness direction. No hardness assumption appears; the computed collision is consumed at the computational layer (Sinsemilla/DLR pre-quantum, a collapsing hash for the ZIP 2005 rehashed tree).
* **Abstract Action statement and pinning lemmas** (`Zcash/Security/Ledger/Statement.lean`): the Orchard-shaped Action statement over abstract primitives, as used by the security games. This models both the deployed Orchard Action statement and the ZIP 2005 Recovery Statement, with key material decoupled behind `KeyBindingInterface`. Proven pinning steps: `ivk_pinned` (ZIP 2005's `ivk`-pinning lemma; pure module algebra), `nk_eq_or_break`, nullifier determinism up to a key-binding break, and the `noteCommitBreakOfNe` reduction.
* **Checked trust boundary** (`Zcash/Security/Ledger/TrustBoundary.lean`): following the `Fingerprint.TrustBoundary` pattern from #42 — `assert_no_sorry` over each break reduction, and `#guard_msgs`-pinned `#print axioms` freezing their axiom sets to `propext` and `Quot.sound` only (no `Classical.choice`, so the break data cannot have been conjured from mere propositional existence).
* **Binding-signature relation as computed data** (`Zcash/Security/BindingSignature/`): `NontrivialRelation` carries the relation coefficients as data, produced by the `NontrivialRelation.ofImbalance` family through to the per-pool Orchard and Sapling bundle capstones; balance statements are the contrapositives under DLR hardness. A `TrustBoundary` module pins sorry-freeness and axiom sets.
* **Book**: the [Formal Verification page](https://zcash.github.io/ironwood/formal-verification.html) documents the *breaks as computed data* convention and the *trust discipline* (after [CompElliptic's](https://github.com/daira/CompElliptic#trust-discipline)). The two conventions are also entries in the proof-map glossary, under a Conventions group, and the glossary's scope line covers the whole development rather than `Zcash/Snark/` only.

## Conventions established

* **Breaks as computed data**: break events are structures carrying the breaking data; reductions are plain computable `def`s. An ∃-closed break `Prop` is vacuously true at the instantiations of interest, so the content must live in data that a consumer can extract. This is essential for compositionality as well as avoiding local vacuousness.
* **Trust discipline**: general theorems rest on the standard classical axioms only; concrete closed facts may use `native_decide` and kernel GMP; both boundaries are checked at build time.

## Coordination

The first commit is the shared base of the parallel key-binding branch, so either branch can land first without conflict on `RandomOracle.lean`. The `KeyBindingInterface` in `Statement.lean` is instantiated by that branch's `Witness`/`KB`/`Break` in a small follow-up file once both are on `main`.

## Next steps (follow-up PRs)

Chain and Effects models (witness-annotated transactions, valid chains, `Outputs` / `NonZeroSpends` / `PoolValueBalance`); the Balance-subset and Balance-value theorems (composing `BindingSignature/Balance.lean`); the Faerie-Gold core (ZIP 2005's distinct-notetuple Spendability theorem); the Spendability game; Spend Authority as a corollary.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: Zcash/Security/Ledger/Merkle.lean [hunk 1]
```diff
@@ -0,0 +1,118 @@
...
+      (authPath H d (fun p => f (Fin.cons (pos 0) p)) (Fin.tail pos))
+
+/-- **Position binding, as an explicit reduction.** From a path that validates `leaf` at
+position `pos` against the root of the tree over `f`, together with `leaf ≠ f pos`, compute
+a collision of the tree hash. (The standard fixed-depth Merkle argument, as a computable
+`def` per the breaks-as-computed-data convention: descend the path, and at the first level where the
+recomputed pair differs from the tree's pair, the two hash inputs collide.) -/
+def collisionOfWrongLeaf [DecidableEq B] (H : B → B → B) :
+    (d : ℕ) → (f : (Fin d → Bool) → B) → (pos : Fin d → Bool) → (sibs : Fin d → B) →
+    (leaf : B) → pathRoot H d pos sibs leaf = root H d f → leaf ≠ f pos → HashCollision H
```
Comment (TalDerei) [inline Zcash/Security/Ledger/Merkle.lean]: this is a complex defintion body to review; express def recursively and decompose.

File: Zcash/Security/BindingSignature/Balance.lean [hunk 2]
```diff
@@ -96,26 +94,30 @@ theorem imbalance_yields_discrete_log (V R bvk : M) (A B bsk : F) (hA : A ≠ 0)
   rwa [smul_smul, smul_smul, inv_mul_cancel₀ hA, one_smul] at h
 
 /-- A nontrivial `F`-linear (discrete-log) relation between the value base `V` and the randomness
-base `R`: scalars `(a, b)` not both zero with `a • V + b • R = 0`. The content of the binding
-reduction is that imbalance allows constructing such a relation explicitly. -/
-def HasNontrivialRelation (V R : M) : Prop := ∃ a b : F, (a ≠ 0 ∨ b ≠ 0) ∧ a • V + b • R = 0
```
Comment (TalDerei) [inline Zcash/Security/BindingSignature/Balance.lean:101]: grep for `HasNontrivialRelation`, there's some stale refs in the proof map and skill file.

File: Zcash/Security/BindingSignature/Balance.lean [hunk 3]
```diff
@@ -96,26 +94,30 @@ theorem imbalance_yields_discrete_log (V R bvk : M) (A B bsk : F) (hA : A ≠ 0)
...
+"the bundle balances" is the contrapositive under DLR hardness at the computational layer. -/
+def NontrivialRelation.ofImbalance (V R bvk : M) (A B bsk : F) (hA : A ≠ 0)
     (hExtract : bvk = bsk • R) (hSum : bvk = A • V + B • R) :
-    A = 0 ∨ HasNontrivialRelation (F := F) V R := by
-  by_cases hA : A = 0
-  · exact Or.inl hA
-  · obtain ⟨hA', hrel⟩ := relation_of_imbalance V R bvk A B bsk hA hExtract hSum
-    exact Or.inr ⟨A, B - bsk, Or.inl hA', hrel⟩
+    NontrivialRelation (F := F) V R :=
+  ⟨A, B - bsk, Or.inl hA, (relation_of_imbalance V R bvk A B bsk hA hExtract hSum).2⟩
```
Comment (TalDerei) [inline Zcash/Security/BindingSignature/Balance.lean]:
```ts
  def NontrivialRelation.ofImbalance ...
      (hA : A ≠ 0) :
      NontrivialRelation V R
```

maybe instead 

```ts
  def ofBundleModImbalance ...
      (hne : bundleValue ≠ 0) :
      NontrivialRelation V R
```

Comment (TalDerei) [inline Zcash/Security/BindingSignature/Balance.lean]: nit; `relation_of_imbalance` theorem retains unused `hA`.

**Review by TalDerei — APPROVED** [review]

**Comment by TalDerei** [comment]
will rebase #20 over new `NontrivialRelation` structure after this lands.

File: Zcash/Security/Ledger/Statement.lean [hunk 4]
```diff
@@ -0,0 +1,224 @@
...
+  α : F
+  rcv : F
+  rcm_old : F
+  rcm_new : F
+
+/-- The games-relevant conjuncts of the Action statement, for instance `inst` and witness
+`w`. Both the deployed Orchard Action statement and the ZIP 2005 Recovery Statement
+satisfy this interface (the latter enforces strictly more). -/
+structure ActionSatisfied (P : Primitives F G B) (kv : KeyBindingInterface KW G B)
+    (inst : ActionInstance G B) (w : ActionWitness KW F G B P.depth) : Prop where
```
Comment (TalDerei) [inline Zcash/Security/Ledger/Statement.lean:115]: can we add a follow-up todo here for the `prop`.

File: Zcash/Security/Ledger/Merkle.lean (hunk 1 above)
Comment (TalDerei) [reply Zcash/Security/Ledger/Merkle.lean]: copied from codex's suggestion on a more succinct representation. The structure is basically:

1. A smaller def that locates and returns the two candidate hash inputs.
2. Theorems proving those inputs are distinct and hash equally.
3. A thin def packaging them into HashCollision H.

-------------

```ts
  - root and pathRoot define the Merkle system.
  - collisionOfWrongLeaf defines the executable reduction: given a concrete wrong-leaf opening, it computes the actual colliding hash inputs.

  Its result type also certifies that output:

  structure Collision (O : Q → F) where
    q₁ : Q                 -- computed data
    q₂ : Q                 -- computed data
    ne : q₁ ≠ q₂           -- erased proof
    eq : O q₁ = O q₂       -- erased proof

  The optional split I described would schematically be:

  abbrev CollisionInputs (B : Type*) :=
    (B × B) × (B × B)

  private def collisionInputsOfWrongLeaf [DecidableEq B]
      (H : B → B → B) ... : CollisionInputs B :=
    -- Same recursive search as collisionOfWrongLeaf.
    -- At the first unequal pair:
    (claimedPair, actualPair)

  theorem collisionInputsOfWrongLeaf_spec ... :
      let c := collisionInputsOfWrongLeaf H ...
      c.1 ≠ c.2 ∧
        Function.uncurry H c.1 = Function.uncurry H c.2 := by
    -- Induction following the computation.

  def collisionOfWrongLeaf ... : HashCollision H :=
    let c := collisionInputsOfWrongLeaf H ...
    let hc := collisionInputsOfWrongLeaf_spec H ...
    {
      q₁ := c.1
      q₂ := c.2
      ne := hc.1
      eq := hc.2
    }
```

File: Zcash/Security/RandomOracle.lean
Comment (TalDerei) [inline Zcash/Security/RandomOracle.lean:1]: move to `common/`

File: Zcash/Security/RandomOracle.lean [hunk 5]
```diff
@@ -0,0 +1,61 @@
...
+
+/-!
+# Random-oracle collision vocabulary (classical ROM)
+
+Shared Layer-A foundation for the classical-ROM security arguments (key-binding `H^*`, and — reused
+by the Layer-B games — note-commitment / nullifier `H^rcm`). We follow the *deterministic-exhibition*
+style of `BindingSignature/Balance.lean`: a security theorem reduces a break to an **exhibited**
+random-oracle collision, and the probability that such a collision occurs within `q` oracle queries —
+the birthday bound `q(q-1)/(2·|F|)` — is a separate concern (Layer C), carried as a named quantity
+until discharged.
```
Comment (TalDerei) [inline Zcash/Security/RandomOracle.lean:11]: nit; can we remove concrete mentions of "layers"?
